US08309580B2
(8) 4-({cyclohexyl[2-ethyl-5-(2-methylpropanoyl)thiophen-3-yl]methyl}amino)benzoic acid
To a mixture of methyl 4-({cyclohexyl[2-ethyl-5-(2-methylpropanoyl)thiophen-3-yl]methyl}amino)benzoate (268 mg) synthesized above, tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (5 mL), and the mixture was stirred with heated under reflux for 2 hr. To the reaction mixture was added 1N hydrochloric acid (10 mL), and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (280 mg, quantitative) as a pale-brown solid.

reactant | methyl 4-({cyclohexyl[2-ethyl-5-(2-methylpropanoyl)thiophen-3-yl]methyl}amino)benzoate | 268 mg | C1(CCCCC1)C(C1=C(SC(=C1)C(C(C)C)=O)CC)NC1=CC=C(C(=O)OC)C=C1 | C25H33NO3S
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-({cyclohexyl[2-ethyl-5-(2-methylpropanoyl)thiophen-3-yl]methyl}amino)benzoic acid | 280 mg | C1(CCCCC1)C(C1=C(SC(=C1)C(C(C)C)=O)CC)NC1=CC=C(C(=O)O)C=C1 | C24H31NO3S
